US06124323
A mixture of [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-acetic acid (0.58 g, 1751 mmol), 5% palladium on carbon (0.05 g) and triethylamine (0.37 ml, 2.66 mmol) in methanol (35 ml) was stirred under a hydrogen atmosphere (1 atm) for 3 h. After removal of the catalyst by filtration, the filtrate was evaporated to give a yellow oil. The oil was dissolved in 10 ml of acetic acid and the solution was stirred at 80° C. under argon for 3 h. The acetic acid was removed on a rotavap. The residue was dissolved in a small amount of methylene chloride and chromatographed on silica gel eluted with 30% ethyl acetate in methylene chloride to give 5-(2-benzyloxy-ethoxy)-1,3-dihydro-indol-2-one (0.39 g, 79%) as a white solid. Analysis calculated for C17H17NO3 : C, 72.07; H, 6.05; N, 4.85. Found: C, 72.09; H, 6.01; N, 4.85.

reactant | [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-acetic acid | 1751 mmol, 0.58 g | C(C1=CC=CC=C1)OCCOC=1C=CC(=C(C1)CC(=O)O)[N+](=O)[O-] | C17H17NO6
reactant | triethylamine | 2.66 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | methanol | 35 ml | CO | CH4O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-(2-benzyloxy-ethoxy)-1,3-dihydro-indol-2-one | 0.39 g, 79% | C(C1=CC=CC=C1)OCCOC=1C=C2CC(NC2=CC1)=O | C17H17NO3
